US09102624B2
1-[1-(4-Cyano-phenyl)-ethyl]-6-methyl-4-oxo-5-(3-trifluoromethyl-phenyl)-1,4-dihydro-pyridine-3-carboxylic acid ethylamide
To a solution of 5-bromo-1-[1-(4-cyano-phenyl)-ethyl]-6-methyl-4-oxo-1,4-dihydro-pyridine-3-carboxylic acid ethylamide (preparation 10, 50 mg, 0.129 mmol), 3-trifluoromethyl-phenylboronic acid (29 mg, 0.155 mmol), 1,1′-[bis(diphenylphosphino)ferrocene]dichloropalladium(II) (9 mg, 0.012 mmol) in acetonitrile (1 mL) is added 2 M aqueous K2CO3 solution (0.20 mL, 0.40 mmol). After stirring for 24 h at 75° C., the reaction mixture is diluted with methanol and purified by preparative reversed-phase HPLC (XBridge, gradient of methanol in water, 0.1% NH4OH, 60° C.). Yield: 56 mg (96% of theory); ESI mass spectrum: [M+H]+=454; Retention time HPLC: 0.93 min (Z011_S03).

reactant | 5-bromo-1-[1-(4-cyano-phenyl)-ethyl]-6-methyl-4-oxo-1,4-dihydro-pyridine-3-carboxylic acid ethylamide | 0.129 mmol, 50 mg | C(C)NC(=O)C1=CN(C(=C(C1=O)Br)C)C(C)C1=CC=C(C=C1)C#N | C18H18BrN3O2
reactant | 3-trifluoromethyl-phenylboronic acid | 0.155 mmol, 29 mg | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | K2CO3 | 0.40 mmol, 2 M, 0.20 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
product | 1-[1-(4-Cyano-phenyl)-ethyl]-6-methyl-4-oxo-5-(3-trifluoromethyl-phenyl)-1,4-dihydro-pyridine-3-carboxylic acid ethylamide | C(C)NC(=O)C1=CN(C(=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)C)C(C)C1=CC=C(C=C1)C#N | C25H22F3N3O2
